US09163027B2
2-{2-[(4-chlorophenyl)sulfanyl]ethoxy}-5,7-dimethyl-[1,2,4]triazolo[1,5-a]pyrimidine
The title compound was prepared according to the experimentals described for Example 11 above from 2-methanesulfonyl-5,7-dimethyl-[1,2,4]triazolo[1,5-a]pyrimidine and 2-[(4-chlorophenyl)sulfanyl]ethan-1-ol in 38% yield. 1H NMR (DMSO-d6, 400 MHz) δ ppm: 7.47 (dd, 1H), 7.45 (dd, 1H), 7.39 (dd, 1H), 7.37 (dd, 1H), 7.08 (s, 1H), 4.51 (t, 2H), 3.45 (t, 2H), 2.62 (s, 3H), 2.52 (s, 3H).

reactant | 2-methanesulfonyl-5,7-dimethyl-[1,2,4]triazolo[1,5-a]pyrimidine | CS(=O)(=O)C1=NN2C(N=C(C=C2C)C)=N1 | C8H10N4O2S
reactant | 2-[(4-chlorophenyl)sulfanyl]ethan-1-ol | ClC1=CC=C(C=C1)SCCO | C8H9ClOS
product | 2-{2-[(4-chlorophenyl)sulfanyl]ethoxy}-5,7-dimethyl-[1,2,4]triazolo[1,5-a]pyrimidine | 38% yield | ClC1=CC=C(C=C1)SCCOC1=NN2C(N=C(C=C2C)C)=N1 | C15H15ClN4OS
